Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
perc biliary drain placement
 
History of Present Illness:
 ___ male with cholangiocarcinoma stage IV,  s/p ERCP with 
placement of metallic stents, s/p right PTBD placement and 
percutaneous cholecystectomy tube and history of cholangitis.  
He was in his usual state of health until yesterday when he 
developed dizziness while at a visit at his urologist's office.  
Then, he developed chills and fevers overnight and noticed that 
he was not having any output from his PTBD.  OSH labs 
demonstrating increasing total bilirubin, so he was advised to 
come in for ___ evaluation today.  Had large volume emesis today.
___ found bile duct obstruction at site of PTBD so balloon sweep 
done and PTBD catheter replaced.  They feel that he likely has 
other sites of biliary obstruction at the site of his metallic 
stents and are recommending MRCP to further evaluate.
At present he feels improved from yesterday but not 
___  Has mild nausea, no abdominal pain, no 
dizziness, no arthralgias or headaches. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- ___: weight loss of about 20 lbs over 3 weeks. One day of
gastric distention, nausea and this resolved.  
- ___: started to develop intermittent nausea as well as a
change in his bowel movements, which were previously normal once
a day, becoming several times a day with soft stools.  He states
that over the summer, he was more fatigued than usual with
burping.  He presented to his primary care physician at which
point he had laboratory testing, and was referred for an
ultrasound of his liver followed by a CT of his abdomen.  He was
seen by gastroenterologist, Dr. ___, at ___ and was referred to ___ for ERCP.  
- ___: Admitted for ERCP. During that period, his
initial bilirubin was 1.6, his alkaline phosphatase 395, his AST
was 181, ALT 251 and his CA ___ was 172.  His CEA was within
normal limits.  During this admission, he had any ERCP, which
showed ductal dilation bilaterally, left more than right and a
plastic stent was placed in the left hepatic duct.  He was
discharged on ___ and during his admission, his maximum
bilirubin was 6.4. 
- ___: repeat ERCP which continue to show bilateral right
and left hepatic lobe ductal dilation with marked migration of
the stent into the small intestine.  He had bilateral plastic
stents placed at that time point.  During his initial workup, he
has also undergone a CT of his chest, which showed one small 
lung nodule of 3 mm in size and a MRCP of the abdomen, which 
indicated this ductal dilation and a mass at the bifurcation of 
the right anterior and left intrahepatic ducts worrisome for 
type IV ___ cholangiocarcinoma.  Cytology was
suspicious for carcinoma. 
- ___: repeat ERCP with exchange of plastic for metal stent. 

- ___: start of cisplatin/gemcitabine cycle 1
- ___ seen in ED for BPV 
- ___ cycle ___: hospitalized for right biliary obstruction. ERCP to
clear stent of sludge/stones with blood ctx + pan sensitivite
enteroccocus
- ___: cycle 3, last dose ___ and ___: hospitalized for GNR bacteremia and
C. diff and then again for delerium, discharged home
- ___: C4 D1 Gem/Cis
- ___ completed CK radiation and resume C5D1 Gem/Cis
- C8D1 gem/cis most recently D1 ___ Cycle end: ___
- numerous readmissions for C.diff and biliary sepsis in ___,
___, and ___ as detailed under HPI above

PAST MEDICAL HISTORY:
GERD
Rosacea
BPH
Migraines controlled on Atenolol
Arthritis of the knees and shoulder on the right
C.diff x3
Diabetes Mellitus diagnosed ___
 
Social History:
___
Family History:
His grandfather had a cancer of the bone. He has no other family 
history of malignancy
 
Physical Exam:
99.1 121/88 92
Gen:  Elderly male 
Lung:  CTA B
CV:  RRR
Abd:  mild distension, + two drains in RUQ, nabs, soft
Ext:  Warm, no edema

Exam on discharge:
97.6 BP: 124/77 HR: 74 RL 18 O2: 97%RA
Gen: Appears comfortable, pleasant
CV: RRR no mgr
Pulm: no accessory muscle use, non-labored
Abd: soft, + two drains in RUQ- upper drain capped, lower drain
to bag. Non-tender. No rebound or guarding
Extrem: warm, no edema
GU: no foley
Skin: no rash
Neuro: A+Ox3, speech fluent

 
Pertinent Results:
Labs:

___ 09:35AM BLOOD WBC-6.7 RBC-4.86 Hgb-14.5 Hct-42.1 MCV-87 
MCH-29.8 MCHC-34.4 RDW-13.7 RDWSD-42.9 Plt Ct-90*
___ 09:35AM BLOOD Plt Ct-90*
___ 09:35AM BLOOD ALT-120* AST-117* AlkPhos-481* 
TotBili-2.4*

___ 07:00AM BLOOD WBC-2.3* RBC-4.10* Hgb-12.2* Hct-36.8* 
MCV-90 MCH-29.8 MCHC-33.2 RDW-13.6 RDWSD-44.9 Plt Ct-61*
___ 04:30AM BLOOD Glucose-252* UreaN-9 Creat-0.6 Na-136 
K-3.9 Cl-102 HCO3-28 AnGap-10
___ 04:30AM BLOOD ALT-93* AST-75* AlkPhos-539* TotBili-0.6

MICRO:
___ 10:39 am BLOOD CULTURE      (L) WRIST. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         Ertapenem Susceptibility testing requested by ___. 
___
         ___ ___.  Ertapenem = Intermediate. 
         Ertapenem sensitivity testing performed by ___. 

         cefepime MIC = 8.0 MCG/ML,  Intermediate. 
         cefepime Sensitivity testing performed by Etest. 
         Piperacillin/Tazobactam sensitivity testing performed 
by ___
         ___. 
      ESCHERICHIA COLI.    SECOND MORPHOLOGY.  FINAL 
SENSITIVITIES. 
         cefepime = 24.0 MCG/ML,  RESISTANT. 
         cefepime Sensitivity testing performed by Etest. 
         Piperacillin/Tazobactam sensitivity testing performed 
by ___
         ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |          ESCHERICHIA COLI
                             |          |   
AMPICILLIN------------  =>32 R     =>32 R
AMPICILLIN/SULBACTAM--  =>32 R     =>32 R
CEFAZOLIN-------------  =>64 R     =>64 R
CEFEPIME--------------       I          R
CEFTAZIDIME-----------  =>64 R     =>64 R
CEFTRIAXONE-----------  =>64 R     =>64 R
CIPROFLOXACIN---------   =>4 R      =>4 R
GENTAMICIN------------   <=1 S      <=1 S
MEROPENEM-------------<=0.25 S   <=0.25 S
PIPERACILLIN/TAZO-----       I          R
TOBRAMYCIN------------   <=1 S      <=1 S
TRIMETHOPRIM/SULFA----   <=1 S      <=1 S

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM NEGATIVE ROD(S). 
      Reported to and read back by ___, ___ @ 
01:58AM
      (___). 

IMAGING:
___
IMPRESSION:  
  
1.  Mild intrahepatic biliary ductal dilatation within atrophic 
left lobe with multifocal areas of stenosis.  Right and left 
hepatic ducts stents are in place.  Air within the left ducts 
indicates patency of the biliary stent.  Mild periductal 
enhancement is suggestive of cholangitis.  Peripheral foci of 
enhancement in the right lobe may be perfusional or related to 
cholangitis. 
2.  Known central cholangiocarcinoma is not well visualized. 
3.  Splenomegaly similar to prior. 
4.  Mild pancreatic ductal dilatation to 5 mm similar to prior 
with pancreatic atrophy. 

 
Brief Hospital Course:
___ y/o male with stage IV cholangiocarcinoma with PTBD and 
metallic extrahepatic biliary stents admitted with rigors, 
elevated bilirubin consistent with cholangitis.

# Cholangitis with signs of early sepsis (rigors, fevers, HR 
greater than 90, clear source):  
The patient had undergone PTBD ballon sweep and stent exchange 
on the day of admission. He was started on unasyn, and blood 
cultures and an MRCP were ordered. Blood cultures quickly grew 
gram-negative rods, so the patient was switched to meropenem 
given his prior history of resistant GNRs. ERCP and ___ were 
consulted and the patient underwent ERCP on ___ with removal 
of stones, sludge and debris. His PTBD drain was capped. LFTs 
were slightly elevated but the patient was tolerating a regular 
diet without abdominal pain or fever prior to discharge. The 
patient was seen by the ID service who recommended treating with 
IV meropenem (E. Coli was intermediate to ertapenem) to complete 
a 10 day course. The patient will follow up with ___ for 
regularly scheduled stent exchange. he will follow up with his 
oncologist Dr. ___ in ___ as scheduled. He should have 
follow up LFTs checked at PCP follow up. 

# History of C diff x 3:  Started on prophylactic vancomycin for 
the course of antibiotics. Vancomycin should end the day IV 
meropenem ends.
# Migraines: Held atenolol prophylaxis given active infection, 
concern for developing hypotension. This was resumed on 
discharge.
# BPH:  Continued finasteride and tamsulosin.
# Diabetes Mellitus:  Newly diagnosed, managing with diet and 
exercise, continued diabetic diet and sliding scale insulin. 

Transitional issues:
- Please check LFTs at PCP follow up
- Full code

 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Dronabinol 2.5 mg PO QAM 
3. Finasteride 5 mg PO DAILY 
4. Mirtazapine 15 mg PO QHS 
5. Pantoprazole 40 mg PO Q24H 
6. Tamsulosin 0.4 mg PO QHS 
7. Dronabinol 5 mg PO QHS 

 
Discharge Medications:
1. Dronabinol 2.5 mg PO QAM 
2. Dronabinol 5 mg PO QHS 
3. Finasteride 5 mg PO DAILY 
4. Pantoprazole 40 mg PO Q24H 
5. Tamsulosin 0.4 mg PO QHS 
6. Atenolol 50 mg PO DAILY 
7. Mirtazapine 15 mg PO QHS 
8. Meropenem 500 mg IV Q6H 
RX *meropenem 500 mg 500 mg IV Q6hrs Disp #*24 Vial Refills:*0
9. Heparin Flush (10 units/ml) 2 mL IV DAILY and PRN, line flush 

10. Vancomycin Oral Liquid ___ mg PO/NG Q6H 
RX *vancomycin [Vancocin] 125 mg 1 capsule(s) by mouth Q6hrs 
Disp #*24 Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Bacteremia
Biliary obstruction
Cholangiocarcinoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were hospitalized with fever and elevated liver tests that 
were concerning for another blockage in the biliary tree. You 
had blood cultures that revealed an infection in the blood 
stream. You were started on IV antibiotics and you were seen by 
the interventional radiologists and the ERCP doctors. You had a 
repeat ERCP and sludge, stones and debris were cleaned from your 
stents. Your biliary drain is currently capped. If you develop 
fevers, abdominal pain, nausea or vomiting please place your 
biliary drain to a bag and call the ___ fellow on call.
Please follow up with your PCP for repeat liver function tests 
next week. 
 
Followup Instructions:
___